US04031226
A mixture of 1.5 parts of N-(2-bromoethyl)-2-nitrobenzamide, 1.55 parts of 5-chloro-1,3-dihydro-1-(4-piperidinyl)-2H-benzimidazol-2-one and 27 parts of N,N-dimethylformamide is stirred and refluxed for 5 hours. The reaction mixture is evaporated and the oily residue is crystallized from ethanol. The product is filtered off and dried, yielding 2.2 parts (67%) of N-{2-[4-(5-chloro-2,3-dihydro-2-oxo- 1H-benzimidazol-1-yl)-1-piperidinyl] ethyl}-2-nitrobenzamide hydrobromide. hemihydrate; mp. 273.2° C.

reactant | N-(2-bromoethyl)-2-nitrobenzamide | BrCCNC(C1=C(C=CC=C1)[N+](=O)[O-])=O | C9H9BrN2O3
reactant | 5-chloro-1,3-dihydro-1-(4-piperidinyl)-2H-benzimidazol-2-one | ClC1=CC2=C(N(C(N2)=O)C2CCNCC2)C=C1 | C12H14ClN3O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | N-{2-[4-(5-chloro-2,3-dihydro-2-oxo- 1H-benzimidazol-1-yl)-1-piperidinyl] ethyl}-2-nitrobenzamide hydrobromide | 67% | Br.ClC1=CC2=C(N(C(N2)=O)C2CCN(CC2)CCNC(C2=C(C=CC=C2)[N+](=O)[O-])=O)C=C1 | InChI=1S/C21H22ClN5O4.BrH/c22-14-5-6-19-17(13-14)24-21(29)26(19)15-7-10-25(11-8-15)12-9-23-20(28)16-3-1-2-4-18(16)27(30)31;/h1-6,13,15H,7-12H2,(H,23,28)(H,24,29);1H
